US05821261
Step B: 1-(tert-Butyloxycarbonyl)-4-C-methylene-L-Proline tert-Butyl Ester
To an oven-dried 2-necked round-bottomed flask was added sodium hydride (80% oil dispersion) (497 mg, 16.56 mmol) followed by dry tetrahydrofuran (42 mL) and methyltriphenyl-phosphonium bromide (5.92 g, 16.56 mmol). The suspension was stirred for 4 hours at 50° C., at which time a solution of 1-(tert-butyloxycarbonyl)-4-oxo-L-proline tert-butyl ester (1.18 g, 4.14 mmol) in THF (10 mL) was added dropwise with stirring over 30 minutes. The reaction mixture was stirred for 2 hours at 50° C., cooled, filtered, and evaporated. The residue was taken up in ethyl acetate (100 mL), washed with N hydrochloric acid (2×), water (2×), saturated brine solution, dried (Na2SO4), and evaporated. The crude product was subjected to flash silica gel chromatography eluting with 15% diethyl ether/hexane. The title compound was obtained as a colorless oil; yield 519 mg (43%). 400 MHz 1HNMR (CDCl3): δ1.42-1.47 (3s, 18H); 2.54 (m, 1H); 2.92 (m, 1H); 4.03 (m, 2H); 4.23-4.38 (m, 1H); 4.98 (m, 2H).

reactant | sodium hydride | 16.56 mmol, 497 mg | [H-].[Na+]
reactant | 1-(tert-butyloxycarbonyl)-4-oxo-L-proline tert-butyl ester | 4.14 mmol, 1.18 g | C(C)(C)(C)OC([C@H]1N(CC(C1)=O)C(=O)OC(C)(C)C)=O | C14H23NO5
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | 42 mL | O1CCCC1 | C4H8O
catalyst | methyltriphenyl-phosphonium bromide | 16.56 mmol, 5.92 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 1-(tert-Butyloxycarbonyl)-4-C-methylene-L-Proline tert-Butyl Ester | C(C)(C)(C)OC([C@H]1N(CC(C1)=C)C(=O)OC(C)(C)C)=O | C15H25NO4
